US05081138
Ethyl 5-chloro-3-phenylthioindole-2-carboxylate
To a cold (0°), stirred solution of ethyl 5-chloroindole-2-carboxylate (223 mg) in 4.5 mL dry tetrahydrofuran, under argon, was added 0.55 mL of a solution of ethylmagnesium bromide in ether. The resultant mixture was stirred for 30 min then cooled to -78°. Solid S-phenyl benzenethiosulfonate (300 mg) was added and the mixture stirred at 78° for 30 min and 0° for 1 h. The mixture was then diluted with ether and saturated aqueous ammonium chloride added. The organic layer was separated, washed with water and brine and dried over MgSO4. Filtration and concentration gave a yellow oil which was purified by flash chromatography on silica gel. Elution with hexane-ethyl acetate (85:15) gave the title product.

reactant | ethyl 5-chloroindole-2-carboxylate | 223 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10ClNO2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | S-phenyl benzenethiosulfonate | 300 mg | C1(=CC=CC=C1)S(=O)(SC1=CC=CC=C1)=O | C12H10O2S2
reactant | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | ammonium chloride | [Cl-].[NH4+]
product | Ethyl 5-chloro-3-phenylthioindole-2-carboxylate | ClC=1C=C2C(=C(NC2=CC1)C(=S)OCC)C1=CC=CC=C1 | C17H14ClNOS
